US07595345B2
I. 4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid
To an ambient temperature solution of 4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester (2.40 g, 5.73 mmol) in dioxane/water (30/30 ml) is added lithium hydroxide (412 mg, 17.20 mmol) and heated to 60° C. for 1 h. The reaction is concentrated and partitioned between Et2O/EtOAc (150/150 ml) and 1N HCl (50 ml). The aqueous phase is extracted with a second portion of EtOAc (100 ml) and the combined organic phases are washed with water (50 ml), brine (50 ml), dried (MgSO4) and concentrated to yield the title compound (1.57 g, 68%).

reactant | 4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester | 5.73 mmol, 2.40 g | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)CC)C)=O | C28H34O3
reactant | lithium hydroxide | 17.20 mmol, 412 mg | [OH-].[Li+]
solvent | dioxane water | 30 ml | O1CCOCC1.O
product | 4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid | 1.57 g, 68% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)C1=CC(=C(C(=O)O)C=C1)C | C27H32O3
